US08044068B2
t-Butyl (3R,4S)-3-benzyloxycarbonylamino-4-(t-butyldimethylsilanoxy)pyrrolidine-1-carboxylate (54 g) was dissolved in THF (400 mL), followed by addition of a solution (167 mL) of 1 M tetrabutyl ammonium fluoride in THF with ice cooling, and the mixture was stirred at room temperature for 3.5 h. Water was added, then the mixture was extracted with ethyl acetate, and the organic layer was dried with anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, hexane/ethyl acetate=1:1-1:2) to obtain t-butyl (3R,4S)-3-benzyloxycarbonylamino-4-hydroxypyrrolidine-1-carboxylate (38 g).

reactant | t-Butyl (3R,4S)-3-benzyloxycarbonylamino-4-(t-butyldimethylsilanoxy)pyrrolidine-1-carboxylate | 54 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CN(C[C@@H]1O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C23H38N2O5Si
reactant | tetrabutyl ammonium fluoride | 1 M, 167 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | t-butyl (3R,4S)-3-benzyloxycarbonylamino-4-hydroxypyrrolidine-1-carboxylate | 38 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CN(C[C@@H]1O)C(=O)OC(C)(C)C | C17H24N2O5
